US03957833
By utilizing the procedure of Example 5, by reacting syringic acid and propargyl bromide, there is obtained syringic acid propargyl ester, F. P. 105°-106°C.

reactant | syringic acid | C(C1=CC(OC)=C(O)C(OC)=C1)(=O)O | C9H10O5
reactant | propargyl bromide | C(C#C)Br | C3H3Br
product | syringic acid propargyl ester | C(C#C)OC(C1=CC(OC)=C(O)C(OC)=C1)=O | C12H12O5
